US08314091B2
A: tert-Butyl 4-(3-(1,1,1-trifluoro-2-methylpropan-2-ylcarbamoyl)benzyl)piperazine-1-carboxylate
3-(Chloromethyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide (3.10 mmol, 868 mg), tert-butyl piperazine-1-carboxylate (3.10 mmol, 578 mg), sodium iodide (3.10 mmol, 465 mg) and triethylamine (3.10 mmol, 0.433 mL) were all combined in actetonitrile (28 ml) and heated to reflux for 2 hours. After this time the reaction mixture was allowed to cool and ethyl acetate and water were added. The organic layer was separated, dried and concentrated under vacuum to yield the title compound (1.3 g).

reactant | 3-(Chloromethyl)-N-(1,1,1-trifluoro-2-methylpropan-2-yl)benzamide | 3.10 mmol, 868 mg | ClCC=1C=C(C(=O)NC(C(F)(F)F)(C)C)C=CC1 | C12H13ClF3NO
reactant | tert-butyl piperazine-1-carboxylate | 3.10 mmol, 578 mg | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | sodium iodide | 3.10 mmol, 465 mg | [I-].[Na+]
reactant | triethylamine | 3.10 mmol, 0.433 mL | C(C)N(CC)CC | C6H15N
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl 4-(3-(1,1,1-trifluoro-2-methylpropan-2-ylcarbamoyl)benzyl)piperazine-1-carboxylate | 1.3 g | FC(C(C)(C)NC(=O)C=1C=C(CN2CCN(CC2)C(=O)OC(C)(C)C)C=CC1)(F)F | C21H30F3N3O3
